US05606037
5,8-dimethoxy-3-hydroxymethyl-isochroman
To a solution of 5,8-dimethoxy-3-methoxycarbonyl-isochroman (310 mg; 1.23 mmol) in 5 ml of tetrahydrofuran at 0° C. was added lithium aluminum hydride (47 mg; 1.23 mmol). The mixture was stirred at 0° C. for 15 minutes and was quenched with 1N HCl. The product was extracted with ether and the combined organic layers were washed with brine and dried over MgSO4 affording crude title alcohol (246 mg; 90%) used as such for subsequent steps:

reactant | 5,8-dimethoxy-3-methoxycarbonyl-isochroman | 1.23 mmol, 310 mg | COC1=C2CC(OCC2=C(C=C1)OC)C(=O)OC | C13H16O5
reactant | lithium aluminum hydride | 1.23 mmol, 47 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5,8-dimethoxy-3-hydroxymethyl-isochroman | COC1=C2CC(OCC2=C(C=C1)OC)CO | C12H16O4
